Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Major Surgical or Invasive Procedure:
EGD 

attach
 
Pertinent Results:
Exam on discharge:
97.9 BP:121/80 HR:76 18 96 Ra 
GENERAL: Alert and in no apparent distress
CV: Heart regular, systolic murmur at RUSB, no S3, no S4.  No
JVD.
RESP: easy WOB, CTAB
GI: soft, ND, TTP RLQ and epigastric areas w/o r/g, +BS
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: pleasant, appropriate affect

ADMISSION LABS:
___ 10:10AM BLOOD WBC-10.1* RBC-4.72 Hgb-14.0 Hct-43.5 
MCV-92 MCH-29.7 MCHC-32.2 RDW-13.2 RDWSD-45.4 Plt ___
___ 10:10AM BLOOD Glucose-73 UreaN-40* Creat-2.0* Na-141 
K-4.6 Cl-105 HCO3-19* AnGap-17

OTHER DATA:

___ Endoscopy (___)
Impression:           
- Large amount of food in the cardia. It is unclear if the food
was in a diverticulum or hiatal hernia.
- Normal upper third of esophagus and middle third of esophagus.
- Normal stomach.
- Normal duodenal bulb and second portion of the duodenum.
- No specimens collected.
Recommendation:       
- Transfer patient to a tertiary center with thoracic surgery in
order to perform rigid esophagoscopy with removal of the bezoar
in the gastric cardia

___ CT torso w/o contrast:
IMPRESSION: 
1. Approximately 4.1 cm ball of ingested material within the
gastric cardia, superior to a gastric band, without evidence of
obstruction.  No evidence of gastric diverticula. 
2. Findings suggestive of intestinal malrotation, without
evidence of volvulus or obstruction. 

___ EGD ___
EGD with large concreted food bezoar in gastric pouch that 
occupied approximately 90% of the pouch volume.  It was 
disrupted using the 25 mm snare with many passes by the toothed 
forceps. ___ net was used to remove several portions.  Once 
pieces were sufficiently small, remainder of bezoar was pushed 
into the stomach body.  After removal, mild mucosal oozing was 
noted at the site of the bezoar, likely from a combination of 
pressure from the food and removal techniques.

 
Brief Hospital Course:
___ yo F PMHx gastric band surgery, arthritis, CKD, CAD s/p MI 
and stent, who presents with difficulty swallowing, found to 
have a gastric pouch bezoar. She underwent gastric band let-down 
with ACS, followed by EGD with gastric bezoar disruption and 
removal.

___ HOSPITAL COURSE:
# Esophageal food impaction 
# Gastric pouch bezoar
Patient presenting with difficulty swallowing and intermittent 
abdominal pain, found to have a bezoar in the gastric pouch. EGD 
attempted at ___ was unable to remove the bezoar.  She was 
transferred to ___.  ACS was consulted for gastric band 
let-down.  GI was consulted and she underwent EGD with bezoar 
disruption and removal on ___.  There was some oozing in the 
area of the bezoar post-procedure.  Her diet was advanced to low 
fiber which she tolerated well.  She will continue this diet 
until GI or Bariatric follow-up.  She should continue H2 blocker 
or PPI x ___ weeks- She is on esomeprazole as outpatient which 
was continued.

# Intestinal malrotation
Suspected to be incidental finding as her symptoms more closely 
matched those of gastric bezoar.

# Acute kidney injury
Baseline Cr appears to be 1.3-1.5. Cr 2.6 at admission. This was 
suspected to be pre-renal in etiology from poor PO intake prior 
to admission.  Creatinine trended down to 1.5 on discharge.  
Lasix and spironolactone were held during admission. Lasix was 
resumed on discharge. Given history ___ would consider 
changing atenolol to metoprolol. 

# CAD s/p stent
She was continued on home aspirin and rosuvastatin.  Atenolol 
was held due to borderline low blood pressures. Would consider 
changing to metoprolol given renal function.

# Heart failure 
Unknown EF. As above, Lasix was held in setting of ___.  

# Hypertension
Imdur, atenolol, and spironolactone were held in the setting of 
___ and borderline low blood pressures during admission.

# Mood
Continued home doxepin 

# GERD
Continue home nexiuum 

# OSA
Continued CPAP 

# Hormone imbalance?
Spironolactone held as above.

Transitional issues:
- Patient to follow up with Bariatric surgeon as outpatient
- H2 blocker or low dose PPI x ___ weeks
- consider changing atenolol to metoprolol given history ___

Ms. ___ was seen and examined on day of discharge and is 
stable for discharge home.
> 30 minutes spent in discharge planning and counseling 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Doxepin HCl 10 mg PO HS 
2. Nexium 40 mg Other DAILY 
3. Spironolactone 50 mg PO BID 
4. Rosuvastatin Calcium 10 mg PO QPM 
5. Furosemide 20 mg PO DAILY 
6. Aspirin 81 mg PO DAILY 
7. Atenolol 25 mg PO DAILY 
8. Isosorbide Mononitrate (Extended Release) 30 mg PO DAILY 
9. HydrOXYzine 25 mg PO TID:PRN itch 
10. Fluticasone Propionate NASAL 1 SPRY NU DAILY 
11. Childrens Chew Multivit-Iron (pedi multivit ___ fum) 
15 mg iron oral DAILY 
12. Centrum Silver Women (multivit-min-iron-FA-lutein) 8 mg 
iron-400 mcg-300 mcg oral DAILY 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY  
2.  Centrum Silver Women (multivit-min-iron-FA-lutein) 8 mg 
iron-400 mcg-300 mcg oral DAILY  
3.  Childrens Chew Multivit-Iron (pedi multivit ___ fum) 
15 mg iron oral DAILY  
4.  Doxepin HCl 10 mg PO HS  
5.  Fluticasone Propionate NASAL 1 SPRY NU DAILY  
6.  Furosemide 20 mg PO DAILY  
7.  HydrOXYzine 25 mg PO TID:PRN itch  
8.  Nexium 40 mg Other DAILY  
9.  Rosuvastatin Calcium 10 mg PO QPM  
10. HELD- Atenolol 25 mg PO DAILY  This medication was held. Do 
not restart Atenolol until you see your primary care doctor
11. HELD- Isosorbide Mononitrate (Extended Release) 30 mg PO 
DAILY  This medication was held. Do not restart Isosorbide 
Mononitrate (Extended Release) until you see your primary care 
doctor
12. HELD- Spironolactone 50 mg PO BID  This medication was held. 
Do not restart Spironolactone until you see your primary care 
doctor.

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Gastric bezoar
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).
 
Discharge Instructions:
Dear Ms. ___,

You came to the hospital with a gastric bezoar, or food 
impaction in the area above the gastric band.  You had the 
gastric band released, and you underwent an EGD to remove the 
bezoar.  Please continue a low fiber diet after discharge.  It 
is important for you to follow-up with your Bariatric Surgeon 
and your primary care doctor after you leave the hospital.

Your blood pressure medications including spironolactone, imdur, 
and atenolol are being held at the time of discharge. Your 
kidney number is slightly elevated therefore Atenolol may not be 
the best medication for you.  Please discuss restarting this 
with your primary doctor.

It was a pleasure taking care of you at ___!  We wish you the 
best in your recovery.
Your ___ medical team 
 
Followup Instructions:
___